US07888366B2
To a cold (ice water) suspension of sodium hydride (472 mg; 11.8 mmol) in anhydrous DMF (5 mL) is added a solution of 5-chloro-2-methoxybenzyl alcohol (1.72 g; 9.7 mmol) in anhydrous DMF (5 mL) over 15 minutes. After allowing to room temperature over 1 hour, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (1.63 g; 11.3 mmol) in anhydrous DMF (8 mL), and allowed to room temperature over 3 hours. The reaction mixture is poured into ice water with vigorous stirring and the resulting solid is filtered, washed with water, and dried under vacuum at 45° C. overnight to give 2.28 grams of 2-(5-chloro-2-methoxybenzyloxy)-6-fluorobenzonitrile.

reactant | sodium hydride | 11.8 mmol, 472 mg | [H-].[Na+]
reactant | 5-chloro-2-methoxybenzyl alcohol | 9.7 mmol, 1.72 g | ClC=1C=CC(=C(CO)C1)OC | C8H9ClO2
reactant | 2,6-difluorobenzonitrile | 11.3 mmol, 1.63 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(5-chloro-2-methoxybenzyloxy)-6-fluorobenzonitrile | 2.28 grams | ClC=1C=CC(=C(COC2=C(C#N)C(=CC=C2)F)C1)OC | C15H11ClFNO2
